US05955471
(S)-N-benzyloxycarbonyl-3-carbamoyloxycarbonyl-1,2,3,4-tetrahydroisoquinoline 25
To (S)-N-benzyloxycarbonyl-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline(1 g) in tetrahydrofuran (5 mL) was added carbonyl diimidazole (0.6 g) and stirred for 45 minutes. Ammonium hydroxide (30%, 5 mL) was added and after overnight stirring, the reaction mixture was extracted with ethyl acetate. The extract was washed with water, 0.5 N HCl, concentrated and recrystallized from ethanol to yield the product as a white solid (0.67 g). Melting point 136.0-137.9° C.

reactant | (S)-N-benzyloxycarbonyl-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline | 1 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=CC=C2C[C@H]1CO | C18H19NO3
reactant | carbonyl diimidazole | 0.6 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-N-benzyloxycarbonyl-3-carbamoyloxycarbonyl-1,2,3,4-tetrahydroisoquinoline | 0.67 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)OC(N)=O | C19H18N2O5
